US09414589B2
To a solution of 2-(4-chlorophenyl)cyclobutanamine (105 mg, 0.55 mmol) and triethylamine (140 mg 2.5 eq.) in THF was added 2-trifluoromethyl-benzoylchloride (127.46 mg, 1.1 eq.) at 0° C. The RM was stirred at rt for 2 h. Et3N.HCl was filtered off and the THF was evaporated. The residue—mixture of two isomers cis and trans (2:1) was purified and separated with chromatography on silica gel, eluent i-Hx:diethylether 1:1, (KMnO4 stain). N-[cis-2-(4-chlorophenyl)cyclobutyl]-2-(trifluoromethyl)benzamide (cis) (33 mg, m.p. 147-9° C.) and its trans isomer (17 mg, m.p. 117-9° C.) were isolated as crystalline products.

reactant | 2-(4-chlorophenyl)cyclobutanamine | 0.55 mmol, 105 mg | ClC1=CC=C(C=C1)C1C(CC1)N | C10H12ClN
reactant | triethylamine | 140 mg, 2.5 eq. | C(C)N(CC)CC | C6H15N
reactant | 2-trifluoromethyl-benzoylchloride | 127.46 mg, 1.1 eq. | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
solvent | THF | C1CCOC1 | C4H8O
product | N-[cis-2-(4-chlorophenyl)cyclobutyl]-2-(trifluoromethyl)benzamide | 33 mg | ClC1=CC=C(C=C1)[C@@H]1[C@@H](CC1)NC(C1=C(C=CC=C1)C(F)(F)F)=O | C18H15ClF3NO
